US07812040B2
4-hydroxy-2-chloro-6-fluorobenzaldehyde.
Sec-BuLi (1.3M solution in cyclohexane, 42.3 mL, 55 mmol) was added slowly at −78° C. to a solution of intermediate 16, 1-(tert-Butyldimethylsilyl)oxy-3-chloro-5-fluorobenzene (13.1 g, 50 mmol) and TMEDA (8.3 mL, 55 mmol) in THF (200 mL) and the mixture was stirred at the same temperature for 30 min. DMF (4.23 mL, 55 mmol) was added to the mixture at −78° C., and the mixture was stirred at the same temperature for 1.5 h. Then 10% aqueous HCl was added to attain pH˜4-5 (200 mL), and the reaction mixture was stirred at RT for 12 h. Aqueous layer was extracted with EtOAc (200 mL). The organic layer was separated. The organic layer was washed with sat. NaHCO3, then H2O was added, HCl was added to attain pH˜3-4, the organic layer was separated, washed with brine, dried with Na2SO4 and evaporated in vacuo to give the title compound (7.53 g, 86%, 43 mmol) as a white solid. 1H NMR data (dmso-d6): 11.51 (br.s, 1H, OH), 10.15 (s, 1H, CHO), 6.78-6.83 (m, 1H, H—Ar), 6.68 (dd, 1H, J1=2.2 Hz, J2=12.7 Hz, H—Ar).

reactant | Sec BuLi | 55 mmol, 1.3M, 42.3 mL | N[C@@H](C[SeH])C(=O)O.[Li]CCCC
reactant | 1-(tert-Butyldimethylsilyl)oxy-3-chloro-5-fluorobenzene | 50 mmol, 13.1 g | [Si](C)(C)(C(C)(C)C)OC1=CC(=CC(=C1)F)Cl | C12H18ClFOSi
reactant | TMEDA | 55 mmol, 8.3 mL | CN(C)CCN(C)C | C6H16N2
reactant | DMF | 55 mmol, 4.23 mL | CN(C)C=O | C3H7NO
reactant | HCl | Cl | ClH
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 4-hydroxy-2-chloro-6-fluorobenzaldehyde | 43 mmol, 7.53 g, 86% | OC1=CC(=C(C=O)C(=C1)F)Cl | C7H4ClFO2
